US05714496
Acetyl chloride (1.62 ml) was added to a solution of 4-iodobenzamidoxime (5.24 g) in pyridine (35 ml) at ambient temperature. The reaction mixture was heated at reflux for 3 hours. The mixture was cooled to ambient temperature, evaporated and ice-water was added to the residue. The solid was collected by filtration, washed with water and recrystallised from acetonitrile to give 3-(4-iodophenyl)-5-methyl-1,2,4-oxadiazole (4.43 g), m.p. 121°-122° C.; microanalysis found: C, 37.6; H, 2.4; N, 9.7%; C9H7IN2O requires: C, 37.8; H, 2.47; N, 9.79%; NMR: 2.66(3H,s), 7.77(2H,dd) and 7.94(2H,dd); m/z 287(M+H).

reactant | Acetyl chloride | 1.62 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-iodobenzamidoxime | 5.24 g | IC1=CC=C(C(N)=NO)C=C1 | C7H7IN2O
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-iodophenyl)-5-methyl-1,2,4-oxadiazole | 4.43 g | IC1=CC=C(C=C1)C1=NOC(=N1)C | C9H7IN2O
